US04107315
The process according to claim 12 which comprises reacting 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinonitrile or 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinic acid with aqueous sulfuric acid to produce 5-(4-pyridinyl)-2(1H)-pyridinone.

reactant | 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinonitrile | O=C1C(C#N)=CC(=CN1)C1=CC=NC=C1 | C11H7N3O
reactant | 1,2-dihydro-2-oxo-5-(4-pyridinyl)-nicotinic acid | O=C1C(C(=O)O)=CC(=CN1)C1=CC=NC=C1 | C11H8N2O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 5-(4-pyridinyl)-2(1H)-pyridinone | N1=CC=C(C=C1)C=1C=CC(NC1)=O | C10H8N2O
